US05486525
To a suspension in CH3CN (40 mL) of 3-(4-methylthiophenyl)-6-(4-fluorophenyl)indole (6.75 g, 20.2 mmol), prepared as in step 1, was added di-tert-butyldicarbonate (4.94 g, 22.6 mmol) and 4-dimethylaminopyridine (250 mg, 2.05 mmol). The reaction mixture was stirred for 15 minutes at ambient temperature during which time significant gas evolution occurred and the reaction mixture became a clear solution. The solvent was removed in vacuo and the residue was taken up in ethyl acetate. The ethyl acetate solution was washed with H2O, 1M aqueous NaHSO4, H2O, and brine, dried over Na2SO4, filtered, and concentrated in vacuo. Chromatography on silica gel (1% then 2% ethyl acetate/hexane), followed by crystallization from ether/hexane gave 1-tert-butoxycarbonyl-3-(4-methylthiophenyl)-6-(4-fluorophenyl)indole (8.05 g, 92% yield). mp 123.7°-124.4° C.

reactant | 3-(4-methylthiophenyl)-6-(4-fluorophenyl)indole | 20.2 mmol, 6.75 g | CSC1=CC=C(C=C1)C1=CNC2=CC(=CC=C12)C1=CC=C(C=C1)F | C21H16FNS
reactant | di-tert-butyldicarbonate | 22.6 mmol, 4.94 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 40 mL | CC#N | C2H3N
catalyst | 4-dimethylaminopyridine | 2.05 mmol, 250 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-tert-butoxycarbonyl-3-(4-methylthiophenyl)-6-(4-fluorophenyl)indole | 8.05 g, 92% yield | C(C)(C)(C)OC(=O)N1C=C(C2=CC=C(C=C12)C1=CC=C(C=C1)F)C1=CC=C(C=C1)SC | C26H24FNO2S
